US05756532
2-{[(Adamantan-1-ylmethyl)-amino]-methyl}-6-fluoro-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one
(R)-2-(Toluene-4-sulfonyloxymethyl)-6-fluoro-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one (1.0 g, 2.5 mmole) and 1-adamantylmethylamine (1.6 g, 10 mmole) were combined in 30 ml of dry DMSO and heated at 80°-90° C. for 4 hours under an argon atmosphere. After cooling to room temperature, the mixture was diluted with 500 ml of 1:1 ethyl acetate/hexane and washed with 250 ml of saturated aqueous sodium bicarbonate and with two 250 ml portions of water, dried over sodium sulfate, filtered and concentrated in vacuum. The residue was column chromatographed on silica gel using 0.5% methanol/CHCl3 as eluant to give 0.70 g of the free base of the title compound as a colorless oil. This was crystallized from ethanol with the addition 4N isopropanolic HCl to give 0.54 g of the (S) enantiomer of the title compound as a fluffy white solid hydrochloride, m.p. >260° C.

reactant | (R)-2-(Toluene-4-sulfonyloxymethyl)-6-fluoro-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one | 2.5 mmole, 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3CC(NC3=C(C2)F)=O)O1)C | C18H16FNO6S
reactant | 1-adamantylmethylamine | 10 mmole, 1.6 g | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate hexane | 500 ml | C(C)(=O)OCC.CCCCCC
product | 2-{[(Adamantan-1-ylmethyl)-amino]-methyl}-6-fluoro-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one | 0.70 g | C12(CC3CC(CC(C1)C3)C2)CNCC2COC=3C(=C1CC(NC1=C(C3)F)=O)O2 | C22H27FN2O3
